US09085555B2
C. 1-carbamoyl-1H-indole-3-carboxylic acid
1-Carbamoyl-1H-indole-3-carboxylic acid benzyl ester (1.33 g, 4.52 mmol) was dissolved in a mixture of DMF/THF 1:1 (28 mL), Pd/C (10%, 250 mg) was added and the solution was degassed 3 times replacing air by nitrogen and finally nitrogen by hydrogen. The reaction mixture was further stirred under hydrogen atmosphere overnight and the catalyst was removed through a pad of Celite and washed with THF. The solvents were concentrated under high vacuum to give a yellowish solid which was taken up in Et2O and filtered-off to afford the title compound. 1H-NMR (400 MHz, DMSO): δ (ppm) 12.6 (m, 1H), 8.54 (bs, 1H), 8.28 (d, 1H), 8.05 (d, 1H), 7.85 (m, 2H), 7.34-7.27 (m, 2H).

reactant | 1-Carbamoyl-1H-indole-3-carboxylic acid benzyl ester | 4.52 mmol, 1.33 g | C(C1=CC=CC=C1)OC(=O)C1=CN(C2=CC=CC=C12)C(N)=O | C17H14N2O3
solvent | DMF THF | 28 mL | CN(C)C=O.C1CCOC1
solvent | Et2O | CCOCC | C4H10O
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | 1-carbamoyl-1H-indole-3-carboxylic acid | C(N)(=O)N1C=C(C2=CC=CC=C12)C(=O)O | C10H8N2O3
